US05510520
2.00 g (17.5 mmol) of (1R,2R)-(-)-1,2-cyclohexanediamine of α!D20 =-36.7° (c 4.14, H2O) and 4.00 g (17.6 mmol) of dl-1-hydroxy-2-hydroxyimino-1,2-diphenylethane were added to 10 ml of benzene and then heated and stirred, and the solution was cooled to room temperature. Afterward, the precipitated crystals were collected by filtration and then recrystallized from 30 ml of benzene twice to obtain 2.30 g of (1R,2R)-(-)-1,2-cyclohexanediamine·(R)-(-)-(E)-1-hydroxy-2-hydroxyimino-1,2-diphenylethane. Physical properties of the product are as follows.

reactant | (1R,2R)-(-)-1,2-cyclohexanediamine | 17.5 mmol, 2.00 g | [C@@H]1([C@@H](CCCC1)N)N | C6H14N2
reactant | H2O | O | H2O
reactant | 1-hydroxy-2-hydroxyimino-1,2-diphenylethane | OC(C(C1=CC=CC=C1)=NO)C1=CC=CC=C1 | C14H13NO2
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | (1R,2R)-(-)-1,2-cyclohexanediamine·(R)-(-)-(E)-1-hydroxy-2-hydroxyimino-1,2-diphenylethane | 2.30 g | [C@@H]1([C@@H](CCCC1)N)N.O[C@@H](/C(/C1=CC=CC=C1)=N/O)C1=CC=CC=C1 | InChI=1S/C14H13NO2.C6H14N2/c16-14(12-9-5-2-6-10-12)13(15-17)11-7-3-1-4-8-11;7-5-3-1-2-4-6(5)8/h1-10,14,16-17H;5-6H,1-4,7-8H2/b15-13+;/t14-;5-,6-/m11/s1
